US04197307
A solution of 19.5 g of 90% pure m-chloroperbenzoic acid in 450 ml of chloroform is added dropwise in the course of 30 minutes to a solution, which has been cooled to 0° to 5° C., of 35 g of 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylthio-benzimidazole in 1,750 ml of chloroform, with stirring. The mixture is stirred for a further 3 hours at 0° to 5° C. and then for 15 hours at room temperature and then is freed from the small amount of precipitate which arises. The filtrate, which still contains residues of m-chloroperbenzoic acid, is treated with sodium bisulphite solution, washed with water, dried over calcium chloride, filtered and concentrated in vacuo. After recrystallising the residue from 500 ml of ethyl acetate, and at the same time clarifying the hot solution with active charcoal, and then drying the white crystals at 50° C., 26 g of 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylsulphinyl-benzimidazole with a melting point of 206°-208° C. are obtained, which corresponds to a yield of 69%.

reactant | m-chloroperbenzoic acid | 19.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylthio-benzimidazole | 35 g | ClC1=CC2=C(N=C(N2)SC)C=C1OC1=C(C=C(C=C1)Cl)Cl | C14H9Cl3N2OS
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1,750 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylsulphinyl-benzimidazole | 26 g, yield of 69% | ClC1=CC2=C(N=C(N2)S(=O)C)C=C1OC1=C(C=C(C=C1)Cl)Cl | C14H9Cl3N2O2S
